US05272143
100 g of methyl indole-4-carboxylate were dissolved in 500 ml of glacial acetic acid. To the solution were added dropwise at room temperature a mixture of 86 ml of a 40% strength aqueous dimethylamine solution, 55 ml of a 37% strength aqueous formaldehyde solution and 250 ml of glacial acetic acid. The reaction mixture was subsequently stirred at room temperature for 20 hours. To work up the reaction mixture it was cooled in ice and 20% strength aqueous sodium hydroxide solution was added until pH 9 was reached. This was followed by extraction three times with dichloromethane, and the combined organic extracts were dried with sodium sulfate, filtered and concentrated. 127 g of crude methyl 3-dimethylaminomethylindole-4-carboxylate were obtained as a pale yellow oil.

reactant | methyl indole-4-carboxylate | 100 g | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | methyl 3-dimethylaminomethylindole-4-carboxylate | 127 g | CN(C)CC1=CNC=2C=CC=C(C12)C(=O)OC | C13H16N2O2
